US04704459
In 15 ml of methylene chloride was dissolved 1.00 g of ethyl 1-(2,4-difluorophenyl)-7-ethylthio-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate, and 1.06 g of m-chloroperbenzoic acid (purity: 80%) was added thereto, after which the resulting mixture was subjected to reaction with ice-cooling for 30 minutes, and then at room temperature for 4 hours. The precipitates were removed by filtration, and to the filtrate thus obtained was added 10 ml of water, after which the pH thereof was adjusted to 7.5 with saturated aqueous sodium hydrogencarbonate solution. The organic layer was thereafter separated, washed successively with 10 ml of water and 10 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained was added 10 ml of diethyl ether, after which the crystals thus deposited were collected by filtration to obtain 940 mg (yield 87.2%) of ethyl 1-(2,4difluorophenyl)-7-ethylsulfonyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 215°-217° C. The physical properties of this compound were identical with those of the compound obtained in Example 44.

reactant | ethyl 1-(2,4-difluorophenyl)-7-ethylthio-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 1.00 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)SCC)F)=O)C(=O)OCC | C19H15F3N2O3S
reactant | m-chloroperbenzoic acid | 1.06 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | 10 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | ethyl 1-(2,4difluorophenyl)-7-ethylsulfonyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 940 mg, yield 87.2% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)S(=O)(=O)CC)F)=O)C(=O)OCC | C19H15F3N2O5S
